US07846923B2
4. 2-Chloro-N-ethyl-3-(9-ethyl-1-methyl-8-oxo-8,9-dihydro-3H-3,4,9-triaza-cyclopenta[a]naphthalen-7-yl)-5-methoxy-benzamide
A mixture of 4-ethylamino-1-methoxymethyl-3-methyl-1H-pyrrolo[2,3-b]pyridine-5-carbaldehyde (10.9 mg, 0.044 mmole), 2-chloro-3-cyanomethyl-N-ethyl-5-methoxy-benzamide, anhydrous EtOH (0.2 ml) and sodium ethoxide (21% in EtOH, 0.4 mL) is heated at 120° C. on a oil bath for 4 h. The reaction solution is cooled to room temperature and quenched with sat. K2CO3. The mixture is extracted with chloroform/methanol (20:1) twice (2×15 mL). The extracts is washed with brine and dried over MgSO4. After removal of solvent, the residue is treated with acetic anhydride at 120° C. for 1 h. The solvent is removed and the residue is treated with HCl (6N, 1 mL) and heated at 100° C. for 2 h. The reaction mixture is cooled to room temperature and neutralized with solid K2CO3 to PH 11 and stirred at room temperature for 30 minutes. It is extracted with chloroform and methanol (20:1) and the extracts is combined and dried over MgSO4. After removal of the solvent, the residue is purified on silica gel column (Ethyl acetate:hexane=4:1) to give desired product. MS m/z 439.1 (M+1).

reactant | 4-ethylamino-1-methoxymethyl-3-methyl-1H-pyrrolo[2,3-b]pyridine-5-carbaldehyde | 0.044 mmole, 10.9 mg | C(C)NC1=C2C(=NC=C1C=O)N(C=C2C)COC | C13H17N3O2
reactant | 2-chloro-3-cyanomethyl-N-ethyl-5-methoxy-benzamide | ClC1=C(C(=O)NCC)C=C(C=C1CC#N)OC | C12H13ClN2O2
reactant | sodium ethoxide | 0.4 mL | [O-]CC.[Na+]
solvent | EtOH | 0.2 ml | CCO | C2H6O
product | 2-Chloro-N-ethyl-3-(9-ethyl-1-methyl-8-oxo-8,9-dihydro-3H-3,4,9-triaza-cyclopenta[a]naphthalen-7-yl)-5-methoxy-benzamide | ClC1=C(C(=O)NCC)C=C(C=C1C1=CC2=CN=C3C(=C2N(C1=O)CC)C(=CN3)C)OC | C23H23ClN4O3
